US07560551B2
Synthesis of tert-Butyl 4-chloropicolinoyl(methyl)carbamate
The title compound was prepared according to the procedure described in references: Marino, J. P.; Rubio, M. B.; Cao, G.; de Dios, A. J. Am. Chem. Soc. 2002, 124, 13398. (b) Diaz, D. D.; Finn, M. G. Org. Lett. 2004, 6, 43. (c) Padwa, A.; Brodney, M. A.; Lynch, S. M.; Rashatasakhon, P.; Wang, Q.; Zhang, H. J Org. Chem. 2004, 69, 3735). A solution of 4-chloro-N-methylpicolinarnide (1.00 g, 5.86 mmol) in THF (11.7 ml, 5.86 mmol) was cooled to −78° C. Then n-BuLi (2345 μl, 5862 μmol) in THF was added dropwise at −78° C. A thick yellow suspension was formed in 5 min. The suspension was stirred at −78° C. for 30 min, then warmed to 0° C., stirred at this temperature for 10 min, and cooled back down to −78° C. Di-tert-butyl dicarbonate (2.30 mg, 10.6 mmol) in 5 mL of THF was added dropwise. The reaction was stirred at −78° C. for 0.5 h and at 0° C. for 20 min, and warmed to rt for 10 min. LCMS showed product at 2.231 min composed of [M]+, [M+Na]+, [2M+Na]+; and starting material at 1.631 min in a ratio of 1:3. After 20 min, LCMS showed more product formed. The reaction was stirred at rt for 2 days. After 2 days, LCMS showed 1:1 Prod:SM. The reaction was stopped. The whole was extracted with EtOAc, washed with brine, dried over MgSO4, filtered, and concentrated. The product was purified by performing column chromatography on silica gel using 80:20 Hex:EtOAc. 1H NMR showed mainly product. The product, tert-butyl 4-chloropicolinoyl(methyl)carbamate (849 mg, 54% yield) was collected as light yellow solid. MS Calculated for C12H15ClN2O3: [M]+=270. Found [2M+Na]+=563.

reactant | 4-chloro-N-methylpicolinarnide | 5.86 mmol, 1.00 g | ClC1=CC(=NC=C1)C(=O)NC | C7H7ClN2O
reactant | n-BuLi | 5862 μmol, 2345 μl | [Li]CCCC
reactant | Di-tert-butyl dicarbonate | 10.6 mmol, 2.30 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5.86 mmol, 11.7 ml | C1CCOC1 | C4H8O
product | tert-butyl 4-chloropicolinoyl(methyl)carbamate | 849 mg, 54% yield | ClC1=CC(=NC=C1)C(=O)N(C(OC(C)(C)C)=O)C | C12H15ClN2O3
